US09328111B2
Step 1: Methyl 2-benzyl-5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate
To a solution of methyl 2-benzyl-9-bromo-5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate (0.1 g, 0.23 mmol) in MeOH (3 mL) was added Pd/C (0.04 g, 5%, 50% water), and the mixture was stirred at atmosphere of hydrogen for about 2.5 h. Debromination occurred without substantially removing benzyl group under this condition. Then the mixture was filtered, washed with MeOH (50 mL), concentrated and was chromatographed on silica gel to afford the product (0.05 g). MS (ESI) m/e [M+1]+ 349.0.

reactant | methyl 2-benzyl-9-bromo-5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate | 0.23 mmol, 0.1 g | C(C1=CC=CC=C1)N1CCC=2C(C3=C(NC2C1)C(=CC=C3C(=O)OC)Br)=O | C21H19BrN2O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 3 mL | CO | CH4O
catalyst | Pd/C | 0.04 g | [Pd] | Pd
product | Methyl 2-benzyl-5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate | 0.05 g | C(C1=CC=CC=C1)N1CCC=2C(C3=C(NC2C1)C=CC=C3C(=O)OC)=O | C21H20N2O3
